US07932272B2
Quinoline-6-carboxylic acid 3-benzylamino-benzylamide
(3-Aminomethyl-phenyl)-benzylamine (62 mg, 0.29 mmol), quinoline-6-carboxylic acid (52 mg, 0.30 mmol), benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate (182 mg, 0.41 mmol) and triethylamine (114 μl, 0.81 mmol) were dissolved in N,N-dimethylformamide (0.5 mL), and the solution was stirred at room temperature for 2 hours. Water was added to the reaction solution, which was then extracted with ethyl acetate, the organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=1:1), and the title compound (73 mg, 0.198 mmol, 73%) was obtained as a white solid.

reactant | (3-Aminomethyl-phenyl)-benzylamine | 0.29 mmol, 62 mg | NCC=1C=C(C=CC1)NCC1=CC=CC=C1 | C14H16N2
reactant | quinoline-6-carboxylic acid | 0.30 mmol, 52 mg | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | benzotriazol-1-yl-tris(dimethylamino)phosphonium hexafluorophosphate | 0.41 mmol, 182 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.81 mmol, 114 μl | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Quinoline-6-carboxylic acid 3-benzylamino-benzylamide | 0.198 mmol, 73 mg, 73% | C(C1=CC=CC=C1)NC=1C=C(CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C24H21N3O
